US07737149B2
N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-(2-hydroxyethoxy)benzamide
A solution of NaHMDS in THF (1 M, 1.15 ml, 1.15 mmol, 2 eq) was added dropwise at ambient temperature to a mixture of tert-butyl-5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate (200 mg, 0.58 mmol, 1 eq) and methyl 4-(2-hydroxyethoxy)benzoate (136 mg, 0.69 mmol, 1.2 eq) in THF (1 ml). The reaction mixture was stirred at ambient temperature for 1 h. It was then concentrated and the crude product was purified by reverse-phase prep. HPLC (basic) using a gradient of acetonitrile in water containing 1% ammonium hydroxide solution. The clean fractions were taken and evaporated to afford the title compound as a colourless solid (29 mg, 12% yield); 1H NMR (399.902 MHz, DMSO) δ 2.89 (4H, s), 3.77-3.72 (8H, m), 4.07 (2H, t), 4.88 (1H, t), 6.34-6.33 (1H, m), 6.43 (2H, d), 6.46 (1H, s), 7.01 (2H, d), 7.98 (2H, d), 10.46 (1H, br.s), 12.12 (1H, br.s). MS: m/z 412 (MH+)

reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | tert-butyl-5-amino-3-[2-(3,5-dimethoxyphenyl)ethyl]pyrazole-1-carboxylate | 0.58 mmol, 200 mg, 1 eq | C(C)(C)(C)OC(=O)N1N=C(C=C1N)CCC1=CC(=CC(=C1)OC)OC | C18H25N3O4
reactant | methyl 4-(2-hydroxyethoxy)benzoate | 0.69 mmol, 136 mg, 1.2 eq | OCCOC1=CC=C(C(=O)OC)C=C1 | C10H12O4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1.15 mmol, 1 M, 1.15 ml, 2 eq | C1CCOC1 | C4H8O
product | N-[5-[2-(3,5-Dimethoxyphenyl)ethyl]-1H-pyrazol-3-yl]-4-(2-hydroxyethoxy)benzamide | 29 mg, 12% yield | COC=1C=C(C=C(C1)OC)CCC1=CC(=NN1)NC(C1=CC=C(C=C1)OCCO)=O | C22H25N3O5
